US07960552B2
To a solution of methyl 7-(4-hydroxyphenyl)-3-isoquinolinecarboxylate (90 mg, 0.32 mmol), triphenylphosphine (93 mg, 0.35 mmol), and (5-cyclobutyl-3-{[(2,6-dimethyl phenyl)oxy]methyl}-4-isoxazolyl)methanol (93 mg, 0.32 mmol) in dichloromethane (1.5 mL) was added diisopropyl azodicarboxylate (0.064 mL, 0.35 mmol) dropwise. The solution was heated in a microwave reactor at 90° C. for 10 minutes. The solution was concentrated, adsorbed onto silica gel and purified by chromatography (silica gel, 0-25% acetone in hexanes gradient elution) to afford methyl 7-(4-{[(5-cyclobutyl-3-{[(2,6-dimethylphenyl)oxy]methyl}-4-isoxazolyl)methyl]oxy}phenyl)-3-isoquinolinecarboxylate (103 mg, 58%). 1H-NMR (400 MHz, DMSO-d6) δ 9.41 (s, 1H), 8.64 (s, 1H), 8.50 (s, 1H), 8.26-8.19 (m, 2H), 7.85 (d, J=9 Hz, 2H), 7.16 (d, J=9 Hz, 2H), 7.00-6.90 (m, 3H), 5.06 (s, 2H), 4.90 (s, 2H), 3.99-3.90 (m, 1H), 3.91 (s, 3H), 2.37-2.30 (m, 4H), 2.14 (s, 6H), 2.09-2.01 (m, 1H), 1.98-1.89 (m, 1H).

reactant | methyl 7-(4-hydroxyphenyl)-3-isoquinolinecarboxylate | 0.32 mmol, 90 mg | OC1=CC=C(C=C1)C1=CC=C2C=C(N=CC2=C1)C(=O)OC | C17H13NO3
reactant | triphenylphosphine | 0.35 mmol, 93 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (5-cyclobutyl-3-{[(2,6-dimethyl phenyl)oxy]methyl}-4-isoxazolyl)methanol | 0.32 mmol, 93 mg | C1(CCC1)C1=C(C(=NO1)COC1=C(C=CC=C1C)C)CO | C17H21NO3
reactant | diisopropyl azodicarboxylate | 0.35 mmol, 0.064 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | methyl 7-(4-{[(5-cyclobutyl-3-{[(2,6-dimethylphenyl)oxy]methyl}-4-isoxazolyl)methyl]oxy}phenyl)-3-isoquinolinecarboxylate | 103 mg, 58% | C1(CCC1)C1=C(C(=NO1)COC1=C(C=CC=C1C)C)COC1=CC=C(C=C1)C1=CC=C2C=C(N=CC2=C1)C(=O)OC | C34H32N2O5
